US07919628B2
To 4.19 g cesium carbonate and 1.37 g methyl 1-hydroxy-2-naphthoate in 25 ml abs. DMF was added 1.62 g 2-bromomethyl-2,3-dihydro-benzo[1,4]dioxine and the mixture was reacted for 16 h at 50° C. The reaction was poured unto ice, the resulting precipitate was isolated by filtration, dissolved in ethyl acetate and washed with brine. The organic phase was dried over magnesium sulphate and concentrated in vacuo. The resulting residue was purified by flash chromatography (silica, heptane/ethyl acetate) to yield 1.31 g of 1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carboxylic acid methyl ester.

reactant | cesium carbonate | 4.19 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 1-hydroxy-2-naphthoate | 1.37 g | OC1=C(C=CC2=CC=CC=C12)C(=O)OC | C12H10O3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 2-bromomethyl-2,3-dihydro-benzo[1,4]dioxine | 1.62 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethoxy)-naphthalene-2-carboxylic acid methyl ester | 1.31 g | COC(=O)C1=C(C2=CC=CC=C2C=C1)OCC1COC2=C(O1)C=CC=C2 | C21H18O5
